data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>CCC[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[Li:20]C1(SCCCS1)C=C(C)C.C1=CC(=C(C=C1)Br)C=[O:10]>>[Li-:20](C1(SCCCS1)C=C(C)C)[O+:10]=CC2=C(C=CC=C2)Br 10=20,
CCCC[C:20](=[O:21])C(CC)CCC1CCCC1.CCC(C1CCCCC1)[NH:10]CC.[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+]>>CCCC[C:20](C(CC)CCC1CCCC1)([NH+:10](CC)C(CC)C2CCCCC2)[O-:21].[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+] 10=20;20,21=21
CCCCCC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)[O:21][P:20](C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:10].O>>CCCCCC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)[O-:21].C1=CC=C(C=C1)[P:20](=[O:10])(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
CC1=CC=C(C=C1)[CH:20]([N:10]2CCCCC2)[OH2+:21].CC(=O)[O-].CC(C)(C)CC(=O)CC#N>>CC1=CC=C(C=C1)[CH:20]=[N+:10]2CCCCC2.[OH2:21].CC(=O)[O-].CC(C)(C)CC(=O)CC#N 10=20;20,21=21
CC[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(C)(C)[OH:10].CCN(CC)CC.CC(=O)[O-]>>CC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[OH+:10]C(C)(C)C.CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
[H:20][O+:21](CCC=C)P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C=CCC[O:21]P(=O)(Cl)Cl 10=20;20,21=21
CCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[C+:20]=O.[CH:11]1=[CH:10]OC=C1[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)[N+](=O)[O-] 10,11=10,20
[H:20][S+:21](C)I.[I-:10]>>[H:20][I:10].C[S:21]I 10=20;20,21=21
[H:20][O+:21](CC1(CCC(=C(C1)C)O[Si](C(C)C)(C(C)C)C(C)C)C)C2C(C(C(C(O2)COC)OC)OC)OC.CC1=CC(=[N:10]C(=C1)C(C)(C)C)C(C)(C)C.CS(=O)(=O)[O-].CS(=O)(=O)OSC1=CC=CC=C1>>[H:20][N+:10]1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C.CC1=C(CCC(C1)(C)C[O:21]C2C(C(C(C(O2)COC)OC)OC)OC)O[Si](C(C)C)(C(C)C)C(C)C.CS(=O)(=O)[O-].CS(=O)(=O)OSC1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=C(C=C2)[N+](=O)[O-] 10=20;20,21=21,22
C(C1C(C(C([CH:20]([O:21]1)[O-:10])O)O)O)O.C(=O)(O)O.[Na+]>>C(C(C(C(C([CH:20]=[O:10])O)O)O)[O-:21])O.C(=O)(O)O.[Na+] 10=20;20,21=21
C[NH+:11]=[S:10](C)[O-]>>C[NH:11][S+:10](C)[O-] 10,11=11
CC(=[C+]CC(CCC1=CC=CC=C1)O[Ti](Cl)(Cl)Cl)[Si:20](C)(C)C.[Cl-:10]>>CC(=[C+]CC(CCC1=CC=CC=C1)O[Ti](Cl)(Cl)Cl)[Si-:20](C)(C)(C)[Cl:10] 10=20,
CC(C)[OH+:11][Al-:10](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)OC(C)C.CN1CCC(=O)CC1>>CC(C)[OH:11].CC(C)O[Al:10](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)OC(C)C.CN1CCC(=O)CC1 10,11=11
[H:20][O:21][CH:22]=[C:23]1C=CC(=C([C:24]1=[O:25])Cl)Cl.[OH:10][Na].O.[OH2+][Na].[Cl-]>>[H:20][OH+:10][Na].C1=CC(=C([C:24](=[C:23]1[CH:22]=[O:21])[O-:25])Cl)Cl.O.[OH2+][Na].[Cl-] 10=20;24,25=25;20,21=21,22;22,23=23,24
[CH:10]1=[CH:11]OC(=C1)C(F)(F)F.O[S+:20](=O)=O>>C1=C(O[CH+:11][CH:10]1[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
CCCCCC[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(C)(C)[OH:10].CCN(CC)CC.CC(=O)[O-]>>CCCCCC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[OH+:10]C(C)(C)C.CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CC(C)C(=O)C(C1=CC=CC=C1)C(CC2=CC=CC=C2)(C(C)C)[O-:10]>>[H:20][O:10]C(CC1=CC=CC=C1)(C(C)C)C(C2=CC=CC=C2)C(=O)C(C)C.[OH2:21] 10=20;20,21=21
[H:20][N+:21](=C(C)C)CC.[OH2:10]>>[H:20][OH2+:10].CC[N:21]=C(C)C 10=20;20,21=21
C[C:11](=[CH2:10])[OH:12].C1=CC=C(C=C1)[CH:20]=[OH+:21]>>C[C:11](=[OH+:12])[CH2:10][CH:20](C1=CC=CC=C1)[OH:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C)[CH2:22][Br:23].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.C[CH:21]=[CH2:22].[Br-:23] 10=20;22,23=23;20,21=21,22
CO[PH:10](Cl)(Cl)[Cl:11]>>CO[PH+:10](Cl)Cl.[Cl-:11] 10,11=11
[H:20][OH2+:21].CC(C)C[Al-](CC(C)C)(O)[O:10]C(=CCC1=CC=CC=C1)C2=CC=CC=C2>>[H:20][O+:10](C(=CCC1=CC=CC=C1)C2=CC=CC=C2)[Al-](CC(C)C)(CC(C)C)O.[OH2:21] 10=20;20,21=21
[H:20][O+:21](CCO)C(C1=C(C=C2C(=C1)OCO2)Br)O.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.C1OC2=CC(=C(C=C2O1)Br)C(O)[O:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[C+:20](C)CCCC[OH:10]>>C[C:20]1(CCCC[OH+:10]1)C 10=20,
CC(=O)CC[C:20](=[O:21])C.C1=CC(=NC(=C1)[NH2:10])Br.CC(=O)O>>CC(=O)CC[C:20](C)([NH2+:10]C1=CC=CC(=N1)Br)[O-:21].CC(=O)O 10=20;20,21=21
[B:20]([O+](CCC)COC)(F)F.[F-:10]>>[B-:20]([O+](CCC)COC)(F)(F)[F:10] 10=20,
C1=C[CH:10]=[C:11](C=C1)OC[C+:20]=O>>C1[C:20](=O)[CH:10]2C=CC=C[C+:11]2O1 10,11=10,20
COC(=O)C1C2CCC3(CCCC2(C3=O)C[C:20]1([O-:10])[O:21]C)C(=O)OC>>C[O-:21].COC(=O)C1C2CCC3(CCCC2(C3=O)C[C:20]1=[O:10])C(=O)OC 10=20;20,21=21
[CH:11]1=[CH:10]OC=C1C(F)(F)F.[N+:20](=O)=[O:21]>>C1=C([CH+:11][CH:10](O1)[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
[H:20][N+:21](=C(CC(=O)C1=CC=CO1)C(=O)OCC)NC2=CC(=CC=C2)C#N.[OH2:10].CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=O)C(=[N:21]NC1=CC(=CC=C1)C#N)CC(=O)C2=CC=CO2.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCOC(=O)N1CCC=CC1C[CH+]C[Si:20](C)(C)C.[OH-:10].Cl[Sn](Cl)(Cl)Cl>>CCOC(=O)N1CCC=CC1C[CH+]C[Si-:20](C)(C)(C)[OH:10].Cl[Sn](Cl)(Cl)Cl 10=20,
